US06444672B1
Ethyl (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid hydrochloride
To a stirred solution of 394 mg of (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid hydrochloride in 10 mL of ethanol at 0° C. was added 0.55 mL of sulfuric acid (95-98%). The reaction mixture was allowed to warm to room temperature and after 2 hours 5 mL of 2N aqueous sodium hydroxide, 20 mL of brine, 20 mL of 5% aqueous sodium hydrogencarbonate and 40 mL of dichloromethane was added. The organic layer was separated and the aqueous layer was extracted three times with dichloromethane. The combined organic layers were dried (sodium sulfate) and concentrated. Purification using column chromatography (silica gel, dichloromethane:ethanol =9:1) and lyophilisation (t-butanol/hydrochloric acid) yielded 265 mg of the title compound.

reactant | (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid hydrochloride | 394 mg | Cl.NC1=NC=CC2=CC(=CC=C12)C(=O)N[C@H](C(=O)N1CCC(CC1)OCC(=O)O)C
reactant | sulfuric acid | 0.55 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
reactant | sodium hydrogencarbonate | 20 mL | C(O)([O-])=O.[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Ethyl (S)-[[1-(2-[[(1-amino-6-isoquinolinyl)carbonyl]amino]-1-oxopropyl)piperidin-4-yl]oxy]acetic acid hydrochloride | 265 mg | Cl.C(C)[C@@H](C(=O)O)OC1CCN(CC1)C(C(C)NC(=O)C=1C=C2C=CN=C(C2=CC1)N)=O | InChI=1S/C22H28N4O5.ClH/c1-3-18(22(29)30)31-16-7-10-26(11-8-16)21(28)13(2)25-20(27)15-4-5-17-14(12-15)6-9-24-19(17)23;/h4-6,9,12-13,16,18H,3,7-8,10-11H2,1-2H3,(H2,23,24)(H,25,27)(H,29,30);1H/t13?,18-;/m0./s1
